US07790763B2
a) 1-Benzhydryl-3-(3-trifluoromethyl-phenoxy)-azetidine
A suspension of 1 mmol methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester [33301-41-6], 1 mmol 3-hydroxy benzotrifluoride, 0.05 mmol tetrabutyl ammonium bromide and 4 mmol sodium hydroxide in a mixture of 5 ml toluene and 0.2 ml water was refluxed overnight. The reaction mixture was cooled, diluted with 20 ml of water and extracted 3 times with dichloromethane. The organic phase was dried, concentrated and the crude product purified by chromatography (methanol/dichloromethane). MS (m/e): 442.3 ([M+CH3COO−]−, 100%).

reactant | methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester | 1 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
reactant | 3-hydroxy benzotrifluoride | 1 mmol | OC=1C=C(C=CC1)C(F)(F)F | C7H5F3O
reactant | sodium hydroxide | 4 mmol | [OH-].[Na+]
catalyst | tetrabutyl ammonium bromide | 0.05 mmol | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.2 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1-Benzhydryl-3-(3-trifluoromethyl-phenoxy)-azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C23H20F3NO
